US05914339
5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-methoxycarbonyl-methyl ester
To a stirred solution of 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid (500 mg, 0.96 mmol) and DMF (10 mL) was added K2CO3 (132 mg, 0.96 mmol) and methyl-2-bromoacetate (0.23 mL, 366 mg, 2.40 mmol). After stirring at 50° C. for 4 h, the reaction mixture was cooled to 23° C., quenched with 5 mL sat. aq. NaHCO3, and extracted with 3×30 mL of EtOAc. The combined organics were washed with 2×50 mL brine, dried over MgSO4, filtered and concentrated to a yellow oil. Flash chromatography on silica gel, eluting with hexane/EtOAc (4/1 to 2/1), gave 508 mg (79%) of product as a colorless oil; 1H NMR (300 MHz, CDCl3): δ 1.22 (d, J=6.9 Hz, 3H), 1.41 (brs, 9H), 2.50-2.60 (brm, 1H), 2.60-2.75 (brm, 1H), 3.06-3.15 (brm, 1H), 3.45-3.60 (brm, 1H), 3.76 (s, 3H), 3.77 (s, 3H), 4.05-4.20 (brm, 1H), 4.70-4.79 (brm, 1H), 4.79(s, 2H), 4.80(s, 2H), 5.42-5.51 (brs, 1H), 6.60-6.91 (complexm, 4H), 7.20-7.43(complexm, 3H); MS (ES) m/z (relative intensity): 666 (M+, (100), 610 (25).

reactant | 5-(2-{tert-butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid | 0.96 mmol, 500 mg | C(C)(C)(C)OC(=O)N(C(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)CC(O)C1=CC(=CC=C1)Cl | C25H28ClNO9
reactant | K2CO3 | 0.96 mmol, 132 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl-2-bromoacetate | 2.40 mmol, 0.23 mL, 366 mg | COC(CBr)=O | C3H5BrO2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-methoxycarbonyl-methyl ester | 508 mg, 79% | COC(=O)C(C(=O)OC)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)N(CC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)(C)C)C(=O)O | C30H34ClNO13
